US06992087B2
The Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting iodomethane provided the title compound as colorless syrup. OAMS supporting ions at: ESI+ 442.0; MS (EI) m/z 441 (M+); HRMS (FAB) calcd for C24H25CL2N3O+H1 442.14, found 442.1456.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | iodomethane | IC | CH3I
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OC)CC | C24H25Cl2N3O
